US03947473
To a solution of 6.09 g. of (±) -6-benzyloxy-2,5,7,8-tetramethylchroman-2-acetaldehyde in 280 ml. of ethanol was added a solution of 3.57 g. of silver nitrate in 42 ml. of H2O followed, dropwise over 0.5 hour, by a solution of 3.49 g. of sodium hydroxide in 100 ml. of H2O. The mixture was stirred at 23° for 2.0 hours, filtered, concentrated in vacuo, diluted with H2O, and extracted with ether. The aqueous solution was acidified with 1 N HCl and again extracted with ether. These latter extracts were washed with brine, dried over magnesium sulfate and stripped of solvents to give (±)-6-benzyloxy-2,5,7,8-tetramethylchroman2-acetic acid.

reactant | (±) -6-benzyloxy-2,5,7,8-tetramethylchroman-2-acetaldehyde | C(C1=CC=CC=C1)OC=1C(=C2CCC(OC2=C(C1C)C)(CC=O)C)C | C22H26O3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
solvent | H2O | O | H2O
product | (±)-6-benzyloxy-2,5,7,8-tetramethylchroman2-acetic acid | C(C1=CC=CC=C1)OC=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)O)C)C | C22H26O4
